US08895313B2
4-(2,2,2-Trifluoroethoxy)benzoic acid
To a stirred solution of 50% w/v KOH (1.2 ml) and 4-(2,2,2-trifluoroethoxy)-benzaldehyde (0.6 g, 2.94 mmol) in MeOH (5 ml) at 65° C. was added dropwise over 20 min aqueous hydrogen peroxide (30 wt. % in water, 2.4 ml). On completion of the addition the reaction mixture was heated at 65° C. for a further 10 min. On cooling to room temperature, the reaction mixture was acidified with 1 M HCl and extracted with Et2O (3×30 ml). The combined organic extracts were washed with brine (20 ml), dried (Na2SO4) and the solvent removed under reduced pressure to give the title compound (0.59 g, 91%) as a pale yellow solid which was used without further purification.

reactant | KOH | 1.2 ml | [OH-].[K+]
reactant | 4-(2,2,2-trifluoroethoxy)-benzaldehyde | 2.94 mmol, 0.6 g | FC(COC1=CC=C(C=O)C=C1)(F)F | C9H7F3O2
reactant | hydrogen peroxide | 2.4 ml | OO | H2O2
reactant | HCl | 1 M | Cl | ClH
solvent | MeOH | 5 ml | CO | CH4O
product | 4-(2,2,2-Trifluoroethoxy)benzoic acid | 0.59 g, 91% | FC(COC1=CC=C(C(=O)O)C=C1)(F)F | C9H7F3O3
